US04178449
4-(α,α,α-Trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine-8-methanol
A mixture of ethyl 4-(α,α,α-trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine-8-carboxylate is reduced with lithium aluminum hydride in refluxing tetrahydrofuran to give the product of the example.

reactant | ethyl 4-(α,α,α-trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine-8-carboxylate | FC(C1=CC(=CC=C1)C1=CC=NC=2N1C=NC2C(=O)OCC)(F)F | C16H12F3N3O2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(α,α,α-Trifluoro-m-tolyl)imidazo[1,5-a]pyrimidine-8-methanol | FC(C1=CC(=CC=C1)C1=CC=NC=2N1C=NC2CO)(F)F | C14H10F3N3O
